US04507315
Isatoic anhydride (22.0 g) was added in portions to a stirred solution of 3-imidazol-1-ylpropylamine (17.2 g) in dioxan (100 ml) over a period of 15 minutes. Stirring was continued for 40 minutes before the solution was evaporated in vacuo to give 2-amino-N-(3-imidazol-1-ylpropyl)benzamide as a buff coloured solid, used without further purification.

reactant | Isatoic anhydride | 22.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 3-imidazol-1-ylpropylamine | 17.2 g | N1(C=NC=C1)CCCN | C6H11N3
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 2-amino-N-(3-imidazol-1-ylpropyl)benzamide | NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1 | C13H16N4O
